US07795283B2
iii) Methyl 1-(5-{[methoxy(oxo)acetyl]amino}-3-methylpyridin-2-yl)piperidine-4-carboxylate
To an ice-water cooled solution of methyl 1-(5-amino-3-methylpyridin-2-yl)piperidine-4-carboxylate (2.14 g; 8.59 mmol) in DCM (43 mL) was added methyl chloro(oxo)acetate (1.03 mL; 11.17 mmol) followed by pyridine (834 μL; 10.31 mmol) and the reaction mixture was allowed to stir at ˜0° C. for 30 mins, then allowed to warm to room temperature. The reaction solution was washed with water (40 mL) then saturated brine (40 mL). The organics were dried over MgSO4, filtered and evaporated under vacuum to yield a pale tan solid (2.01 g, 70% yield). This was used for the next stage without further purification. 1H NMR δ 1.60-1.80 (m, 2H), 1.85-1.99 (m, 2H), 2.18 (s, 3H), 2.54-2.62 (m, 1H), 2.69-2.88 (m, 2H), 3.26-3.40 (m, 2H), 3.56 (s, 3H), 3.82 (s, 3H), 7.87 (d, 1H), 8.40 (d, 1H), 10.75 (s, 1H). MS m/e MH+ 336.20.

reactant | methyl 1-(5-amino-3-methylpyridin-2-yl)piperidine-4-carboxylate | 8.59 mmol, 2.14 g | NC=1C=C(C(=NC1)N1CCC(CC1)C(=O)OC)C | C13H19N3O2
reactant | methyl chloro(oxo)acetate | 11.17 mmol, 1.03 mL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | pyridine | 10.31 mmol, 834 μL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 43 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-(5-{[methoxy(oxo)acetyl]amino}-3-methylpyridin-2-yl)piperidine-4-carboxylate | 2.01 g, 70% yield | COC(C(=O)NC=1C=C(C(=NC1)N1CCC(CC1)C(=O)OC)C)=O | C16H21N3O5
